US04061761
4-(3-Allylsulfamoyl-4-chlorophenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
8.7 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted as prescribed in Example 76 with 1.5 g of allyl amine and 4 g of triethyl amine in 50 ml of ethanol and worked up. The water was decanted and the amorphous end product was crystallized under diethyl ether. Colorless solid body, melting point: 146° C (decomposition).

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 8.7 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | allyl amine | 1.5 g | C(C=C)N | C3H7N
reactant | triethyl amine | 4 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3-Allylsulfamoyl-4-chlorophenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | C(C=C)NS(=O)(=O)C=1C=C(C=CC1Cl)C1(N(C(SC1)=NC)C)O | C14H18ClN3O3S2
